US06864025B2
N-2-Ethylhexylcarbazole was prepared from carbazole (85.09 g, 0.51 mol), 2-ethylhexylbromide (100 g, 0.52 mol, commercially available from Aldrich, Milwaukee, Wis.), benzyltriethyl ammonium chloride (5.78 g, 0.025 mol), toluene (400 ml), and 50% aqueous NaOH solution (200 g) according to the procedure described for N-heptylcarbazole. The product was obtained as 115 g of brownish liquid (81% yield).

reactant | carbazole | 0.51 mol, 85.09 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 2-ethylhexylbromide | C(C)C(CBr)CCCC | C8H17Br
reactant | NaOH | 200 g | [OH-].[Na+]
reactant | N-heptylcarbazole | C(CCCCCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C19H23N
catalyst | benzyltriethyl ammonium chloride | 0.025 mol, 5.78 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-2-Ethylhexylcarbazole | CCN1C2=CC=CC=C2C=2C=CC=C(C12)CCCCCC | C20H25N
